US08008298B2
A mixture of 5-cyano-2,2-dimethyl-pentanoic acid methyl ester (4.50 g, 27 mmol) and 2 M aq. LiOH solution (40 mL, 80 mmol) in 30 mL of a 3:2:1 tetrahydrofuran/methanol/water solution was rapidly stirred overnight, then concentrated to approximately half volume. The mixture was extracted with ethyl acetate, then acidified with conc. HCl solution and extracted three times with ethyl acetate. The final three organic layers were combined and sequentially washed with sat. aq. NaHCO3 solution and sat. aq. NaCl solution, dried over MgSO4, filtered and concentrated to afford 2.77 g (67%) of 5-cyano-2,2-dimethyl-pentanoic acid as a brown oil, which was used without further purification.

reactant | 5-cyano-2,2-dimethyl-pentanoic acid methyl ester | 27 mmol, 4.50 g | COC(C(CCCC#N)(C)C)=O | C9H15NO2
reactant | LiOH | 80 mmol, 2 M, 40 mL | [Li+].[OH-]
solvent | tetrahydrofuran methanol water | 30 mL | O1CCCC1.CO.O
product | 5-cyano-2,2-dimethyl-pentanoic acid | 2.77 g, 67% | C(#N)CCCC(C(=O)O)(C)C | C8H13NO2
